* restri.hsp

* Written 10/6/96 by Ken Chang  kunyung@leland.stanford.edu
* This spice deck simulates the rise and fall time of a tristate inverter for 
* part (8) of problem 1


***********************************************************************
* Set supply and library
***********************************************************************
* The characterization script replaces !SUP! with the
* user-specified supply and !LIB! with the user-specified
* library.

.param Sup=!SUP!        * Must set before calling .lib
.temp !TEMP!            * Override temperature by setting it before .lib
.protect                * Don't print the contents of library
.lib '!LIB!' !CORNER!   * Load the library for process corner
.unprotect              * Resume printing SPICE deck
.param Supply=!VOLT!    * Override voltage by setting it after .lib
.opt scale=!LAMBDA!     * Set lambda
.option accurate

* Save results of simulation for viewing
.options post

***********************************************************************
* Define power supply
***********************************************************************

.global Vdd 	Gnd
Vdd	Vdd	Gnd	'Supply'	* Supply is set by .lib call

***********************************************************************
* Define Subcircuits
***********************************************************************

.subckt	inv In Out
m1	Out In Gnd Gnd	nmos	l=2 w=16 AD=0 PD=0 AS=0 PS=0 
m2	Out In Vdd Vdd	pmos	l=2 w=32 AD=0 PD=0 AS=0 PS=0
.ends

* tristate inverter with both inputs connected together

.subckt inv_d   In      Out
m1      Out     In      n       Gnd     nmos    
+ 	l=2  w=16 AD=0 PD=0 AS=0 PS=0
m2      n       Vdd      Gnd     Gnd     nmos    
+	l=2  w=16 AD=0 PD=0 AS=0 PS=0
m3      p       In      Vdd     Vdd     pmos    
+	l=2  w=32 AD=0 PD=0 AS=0 PS=0
m4      Out     Gnd      p       Vdd     pmos    
+	l=2  w=32 AD=0 PD=0 AS=0 PS=0
.ends

***********************************************************************
* Top level simulation netlist
***********************************************************************

* First inverter has a step input

x1      In      Out     inv_d
x2	Out	dummy1	inv	M = 4
X3	dummy1	dummy2	inv	M = 16

* Out1 is driven by a fanout of 4 inverter
x4      In      Out1    inv
x5      Out1    Cap  	inv_d   M = 4
X6	Cap	dummy4	inv	M = 16
X7	dummy4	dummy5	inv	M = 64

***********************************************************************
* Stimulus
***********************************************************************

* Format of pulse input:
* pulse v_initial v_final t_delay t_rise t_fall t_pulsewidth t_period

Vin     In      Gnd     pulse 0 'Supply' 1ns 0.1ns 0.1ns 4ns 10ns

***********************************************************************
* Measurements
***********************************************************************


* Measure the rise and fall delays of the two inverters
.measure StepR
+       TRIG v(In) VAL='Supply/2' FALL=1 
+       TARG v(Out) VAL = 'Supply/2' RISE=1
.measure  SlowR
+       TRIG v(Out1) VAL='Supply/2' FALL=1 
+       TARG v(Cap) VAL = 'Supply/2' RISE=1
.measure StepF
+       TRIG v(In) VAL='Supply/2' RISE=1
+       TARG v(Out) VAL = 'Supply/2' FALL=1 
.measure  SlowF
+       TRIG v(Out1) VAL='Supply/2' RISE=1
+       TARG v(Cap) VAL = 'Supply/2' FALL=1 

*.measure StepResR param ='16*StepR/(!CPERMIC!*(32+16)*(!LAMBDA!/1u)*4*2)'
*.measure StepResF param ='8*StepF/(!CPERMIC!*(32+16)*(!LAMBDA!/1u)*4*2)'
*.measure SlowResR param ='16*SlowR/(!CPERMIC!*(32+16)*(!LAMBDA!/1u)*4*2)'
*.measure SlowResF param ='8*SlowF/(!CPERMIC!*(32+16)*(!LAMBDA!/1u)*4*2)'
.measure StepResR param ='32*StepR/(!CPERMIC!*(32+16)*4*2)'
.measure StepResF param ='16*StepF/(!CPERMIC!*(32+16)*4*2)'
.measure SlowResR param ='32*SlowR/(!CPERMIC!*(32+16)*4*2)'
.measure SlowResF param ='16*SlowF/(!CPERMIC!*(32+16)*4*2)'

.tran 1ps 16ns 

***********************************************************************
* End of Deck
***********************************************************************

.end
